US05854212
Pentafluorphenyl 6-n-heptyloxy-2-naphthoate is prepared as follows. To a suspension of 6-n-heptyloxy-2-naphthoic acid (10.5 mmol) and dicyclohexylcarbodiimide (10.5 mmol) in ethyl acetate at 0° C. is added pentafluorophenol (11.5 mmol). The mixture is stirred at 25° C. for a period of 18 h. Any precipitate is removed by filtration. The filtrate is washed twice with water and brine and dried with magnesium sulfate. Removal of the ethyl acetate in vacuo gives the desired pentafluorphenyl 6-n-heptyloxy-2-naphthoate.

reactant | 6-n-heptyloxy-2-naphthoic acid | 10.5 mmol | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C18H22O3
reactant | dicyclohexylcarbodiimide | 10.5 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pentafluorophenol | 11.5 mmol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | pentafluorphenyl 6-n-heptyloxy-2-naphthoate | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C24H21F5O3
